US04670604
A solution of 7.05 g of N-{{3-{3-[4-acetyl-3-hydroxy-2-(3,3,3-trifluoropropyl)-phenoxy]-propoxy}-2-cyanophenyl}}-1-(4-methoxybenzyl)-tetrazole-5-carboxamide in 150 ml of trifluoroacetic acid and 15 ml of anisole is refluxed for 30 minutes. The reaction mixture is concentrated under reduced pressure, about 200 ml of ether and 300 ml of petroleum ether are added and the crystals are filtered off. The N-{{3-{3-[4-acetyl-3-hydroxy-2-(3,3,3-trifluoropropyl)-phenoxy]-propoxy}-2-cyano-phenyl}}-1H-tetrazole-5-carboxamide thus obtained, of melting point 206°-208°, is dissolved hot in 50 ml of acetone, and the calculated amount of triethanolamine in 30 ml of acetone is added. After addition of ether, crystallisation starts. The triethanolammonium salt of N-{{3-{3-[4-acetyl-3-hydroxy-2-(3,3,3-trifluoropropyl)phenoxy]-propoxy}-2-cyano-phenyl}}-1H-tetrazole-5-carboxamide is thus obtained.

reactant | N-{{3-{3-[4-acetyl-3-hydroxy-2-(3,3,3-trifluoropropyl)-phenoxy]-propoxy}-2-cyanophenyl}}-1-(4-methoxybenzyl)-tetrazole-5-carboxamide | 7.05 g | C(C)(=O)C1=C(C(=C(OCCCOC=2C(=C(C=CC2)NC(=O)C2=NN=NN2CC2=CC=C(C=C2)OC)C#N)C=C1)CCC(F)(F)F)O | C31H29F3N6O6
solvent | trifluoroacetic acid | 150 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | anisole | 15 ml | C1(=CC=CC=C1)OC | C7H8O
product | N-{{3-{3-[4-acetyl-3-hydroxy-2-(3,3,3-trifluoropropyl)-phenoxy]-propoxy}-2-cyano-phenyl}}-1H-tetrazole-5-carboxamide | C(C)(=O)C1=C(C(=C(OCCCOC=2C(=C(C=CC2)NC(=O)C2=NN=NN2)C#N)C=C1)CCC(F)(F)F)O | C23H21F3N6O5
